US08420851B2
[4-(3-sec-Butyl-4-methoxy-phenoxy)-3,5-dichloro-phenylamino]-acetic acid ethyl ester (0.9 g, 2.1 mmol) was stirred with ethyl chloroformate (8 mL) at reflux temperature for 16 hrs. From the reaction mixture ethyl chloroformate was evaporated under reduced pressure and the residue was taken up in ethyl acetate, washed with H2O, brine and dried over sodium sulphate, filtered and concentrated to give {[4-(3-sec-butyl-4-methoxy-phenoxy)-3,5-dichloro-phenyl]-ethoxycarbonyl-amino}-acetic acid ethyl ester. (0.8 g, 76% yield)

reactant | [4-(3-sec-Butyl-4-methoxy-phenoxy)-3,5-dichloro-phenylamino]-acetic acid ethyl ester | 2.1 mmol, 0.9 g | C(C)OC(CNC1=CC(=C(C(=C1)Cl)OC1=CC(=C(C=C1)OC)C(C)CC)Cl)=O | C21H25Cl2NO4
reactant | ethyl chloroformate | 8 mL | ClC(=O)OCC | C3H5ClO2
product | {[4-(3-sec-butyl-4-methoxy-phenoxy)-3,5-dichloro-phenyl]-ethoxycarbonyl-amino}-acetic acid ethyl ester | 76% yield | C(C)OC(CN(C(=O)OCC)C1=CC(=C(C(=C1)Cl)OC1=CC(=C(C=C1)OC)C(C)CC)Cl)=O | C24H29Cl2NO6
